US09023760B2
Step 2: Preparation of 1-methoxy-4-methylamino-piperidine-4-carboxylic acid methyl ester (title compound P5.4)
To a suspension of 1-methoxy-4-methylamino-piperidine-4-carboxylic acid hydrochloride salt (2.08 g, 9.26 mmol) in methanol (20 ml) at 0-5° C. was added thionyl chloride (2.41 ml, 3.97 g, 33.40 mmol) and the reaction mixture was heated at reflux for 7 days. After cooling, the mixture was concentrated, the residue diluted with ice water and neutralised with aqueous sodium bicarbonate. The aqueous phase was extracted with ethyl acetate (4×), the combined organic layers washed with brine, dried over sodium sulfate and concentrated. The residue was purified by chromatography on silica gel (gradient ethyl acetate→ethyl acetate/methanol 20:1). Yield: 76 mg of 1-methoxy-4-methylamino-piperidine-4-carboxylic acid methyl ester (title compound P5.4) as an oil.

reactant | 1-methoxy-4-methylamino-piperidine-4-carboxylic acid hydrochloride salt | 9.26 mmol, 2.08 g | Cl.CON1CCC(CC1)(C(=O)O)NC
reactant | thionyl chloride | 33.40 mmol, 2.41 ml, 3.97 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 20 ml | CO | CH4O
product | 1-methoxy-4-methylamino-piperidine-4-carboxylic acid methyl ester | COC(=O)C1(CCN(CC1)OC)NC | C9H18N2O3
